US07192968B2
(±)-trans-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine hydrochloride
5-Chloroindole-2-carboxylic acid (80 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (98 mg), 1-hydroxybenzotriazole monohydrate (23 mg) and triethylamine (141 μl) were added to a solution with (±)-trans-N-[(5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine hydrochloride (120 mg) dissolved in N,N-dimethylformamide (5 ml), and the mixture was stirred at room temperature for 3 days. The solvent was distilled off under reduced pressure, and dichloromethane and a saturated aqueous solution of sodium hydrogencarbonate were added to the residue to conduct liquid separation. The resultant organic layer was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure, and the residue was purified by flash column chromatography on silica gel (dichloromethane:methanol=93:7). After dichloromethane (5 ml) and a 1N ethanol solution (282 μl) of hydrochloric acid were added to the thus-obtained pale yellow solid. Ethyl acetate was added, solvent was distilled off under reduced pressure and precipitate formed was collected by filtration to obtain the title compound (109 mg) as a pale yellow solid.

reactant | 5-Chloroindole-2-carboxylic acid | 80 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 98 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 23 mg | O.ON1N=NC2=C1C=CC=C2
reactant | (±)-trans-N-[(5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine hydrochloride | 120 mg | Cl.CN1CC2=C(CC1)N=C(S2)C(=O)N[C@H]2[C@@H](CCC2)N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 141 μl | C(C)N(CC)CC | C6H15N
product | (±)-trans-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine hydrochloride | 109 mg | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@@H](CCC1)NC(=O)C=1SC=2CN(CCC2N1)C | InChI=1S/C22H24ClN5O2S.ClH/c1-28-8-7-17-19(11-28)31-22(27-17)21(30)26-16-4-2-3-15(16)25-20(29)18-10-12-9-13(23)5-6-14(12)24-18;/h5-6,9-10,15-16,24H,2-4,7-8,11H2,1H3,(H,25,29)(H,26,30);1H/t15-,16-;/m1./s1
